US04018794
To a solution of 4-benzoyl-3-hydroxy-5-sulfamylbenzoic acid hemihydrate (3.21 g) in 0.50 N NaOH (40.0 ml), benzyl bromide (1.2 ml) is added and the mixture is stirred at room temperature for 5 hours. The mixture is left in a refrigerator for about 16 hours, and the separated sodium 4-benzoyl-3-benzyloxy-5-sulfamylbenzoate is collected by filtration and washed with a small amount of ice-cold water. The salt is dissolved in 1 N sodium hydroxide (30 ml) and the solution is added to ice-cold 1 N acetic acid (35 ml). The resulting precipitate is collected by filtration and washed with water. After drying in vacuo in the presence of P2O5, 4-benzoyl-3-benzyloxy-5-sulfamylbenzoic acid is obtained. The material is identical (IR, analysis) with the material prepared as in Example 40.

reactant | 4-benzoyl-3-hydroxy-5-sulfamylbenzoic acid hemihydrate | 3.21 g | O.C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)O.C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)O
solvent | NaOH | 0.50 N, 40.0 ml | [OH-].[Na+]
solvent | benzyl bromide | 1.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | 4-benzoyl-3-benzyloxy-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)OCC1=CC=CC=C1 | C21H17NO6S
